US04172949
4-Methoxy-10,11-dihydro-5-oxo-5H-dibenzo[a.d]cycloheptene-2-carboxylic acid (4.0 g) is dissolved in dimethylformamide (30 ml) and to the solution is added excess ethereal diazomethane. The mixture is evaporated to low volume, poured into water and extracted with ethyl acetate. The extract is washed, dried and evaporated to yield methyl 4-methoxy-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene-2-carboxylate. 1.0 G of this compound is refluxed for 1 hour in carbon tetrachloride (50 ml) containing N-bromosuccinimide (0.635 g) while irradiating the mixture with a 100 watt incandescent lamp. The solution is cooled, filtered and evaporated. The residue is dissolved in dimethylformamide (10 ml) and 1,5-diazabicyclo[4.3.0]non-5-ene (1.0 ml) is added. The mixture is heated to 70° for 30 minutes then cooled and poured into water. The solution is extracted with ethyl acetate, and the extract washed, dried and evaporated to afford methyl 4-methoxy-5-oxo-5H-dibenzo[a,d]cycloheptene-2-carboxylate. This material is refluxed for 3 hours in water (10 ml) and methanol (2.5 ml) containing sodium hydroxide (0.5 g). The cooled solution is acidified with 2 N hydrochloric acid and extracted with ethyl acetate. The extract is dried and evaporated. The residue is recrystallized from aqueous methanol to afford 4-methoxy-5-oxo-5H-dibenzo[a,d]cycloheptene-2-carboxylic acid, mp 252°-253°.

reactant | 4-Methoxy-10,11-dihydro-5-oxo-5H-dibenzo[a.d]cycloheptene-2-carboxylic acid | 4.0 g | COC1=CC(=CC2=C1C(C1=C(CC2)C=CC=C1)=O)C(=O)O | C17H14O4
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | methyl 4-methoxy-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene-2-carboxylate | COC1=CC(=CC2=C1C(C1=C(CC2)C=CC=C1)=O)C(=O)OC | C18H16O4
